US05602117
(e) t-Butyl (6R,7R)-7-Phenoxyacetamido-3-(tetrahydrothien-2-yl)ceph-3-em-4-carboxylate
t-Butyl 2-[(3R,4R)-3-phenoxyacetamido-4-[(RS)-tetrahydrothien-2-yl carbonylmethylthio]azetidin-2-on-1-yl]-2-tri-n-butylphosphoranylideneacetate (2.96 g) in toluene (100 ml) was heated under reflux for ca. 24 h. T.l.c. showed very small amounts of unchanged starting material. The solution was concentrated and flash chromatographed on silica gel eluting with 30, 40, 50 and 60% ethyl acetate/hexane. The first product to be eluted was the high Rf single diastereoisomer of the title compound (0.388 g, 19%) as a yellow foam; (Found: M+, 476.1442. C23H28N2O5S2 requires M, 476.1440); νmax (CH2Cl2) 3407, 1783, 1716 and 1698 cm-1 ; ΔH (CDCl3) 1.45-1.63 (10H, s overlapping m), 1.82-2.01 (1H, m), 2.21-2.33 (1H, m), 2.44-2.53 (1H, m), 2.97 (1H, dd, J 3.9, 8.8 Hz), 3.35 and 3.76 (2H, ABq, J 18.0 Hz), 4.57 (2H, s), 4.90 and 4.94 (1H, dd, J 6.5, 9.9 Hz), 5.01 (1H, d, J 4.8 Hz), 5.86 and 5.91 (1H, dd, J 4.8, 9.3 Hz), 6.85-7.07 (3H, m) and 7.24-7.36 (3H, m). The second product to be eluted was contaminated with an impurity. Re-chromatography of this material afford the low Rf diastereoisomer of the title compound (0.428 g, 21%); νmax (CH2Cl2) 3406, 1785, 1719 and 1697 cm-1 ; δH (CDCl3) 1.45-2.00 (11H, m overlapping s), 2.93-2.98 (2H, m), 3.45 and 3.56 (2H, ABq, J 17.3 Hz), 4.57 (2H, s), 4.84 (1H, dd, J 6.3, 10.0 Hz), 5.03 (1H, d, J 4.9 Hz), 5.88 (1H, dd, J 4.9, 12.7 Hz), 6.91-7.07 (3H, m) and 7.25-7.36 (3H, m).

reactant | t-Butyl 2-[(3R,4R)-3-phenoxyacetamido-4-[(RS)-tetrahydrothien-2-yl carbonylmethylthio]azetidin-2-on-1-yl]-2-tri-n-butylphosphoranylideneacetate | 2.96 g | O(C1=CC=CC=C1)CC(=O)N[C@@H]1C(N([C@@H]1SCC(=O)C1SCCC1)C(C(=O)OC(C)(C)C)=P(CCCC)(CCCC)CCCC)=O | C35H55N2O6PS2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | t-Butyl (6R,7R)-7-Phenoxyacetamido-3-(tetrahydrothien-2-yl)ceph-3-em-4-carboxylate | 0.428 g, 21% | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C2SCCC2)C(=O)OC(C)(C)C)C1=O | C23H28N2O5S2
